US07214674B2
4-Methyl-8-{1-[2-(2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one (E9)
The title compound was prepared from 4-methyl-8-(piperidin-4-ylmethyl)4H-benzo[1,4]oxazin-3-one and 5-(2-bromoethoxy)-2-methylquinoline in a similar manner to Example 1.

reactant | 4-methyl-8-(piperidin-4-ylmethyl)4H-benzo[1,4]oxazin-3-one | CN1C(COC2=C1C=CC=C2CC2CCNCC2)=O | C15H20N2O2
reactant | 5-(2-bromoethoxy)-2-methylquinoline | BrCCOC1=C2C=CC(=NC2=CC=C1)C | C12H12BrNO
product | 4-Methyl-8-{1-[2-(2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one | CN1C(COC2=C1C=CC=C2CC2CCN(CC2)CCOC2=C1C=CC(=NC1=CC=C2)C)=O | C27H31N3O3
